US04835175
A solution of 896 mg of 4-methylaminoacetyl-7-hydroxyindole-2-carboxylic acid methyl ester hydrochloride in 30 ml of methanol is combined with 150 mg of 10% palladium-animal charcoal catalyst and hydrogenated under shaking at normal pressure. The reaction mixture is then filtered and the filtrate evaporated to dryness under vacuum. The residue is extracted by boiling with 20 ml of acetonitrile and the insoluble proportion is vacuum-filtered and recrystallized from ethanol, thus producing 232 mg of 4-(1-hydroxy-2-methylaminoethyl)- 7-hydroxyindole-2-carboxylic acid methyl ester hydrochloride, decomposition point 177°-180° C.

reactant | 4-methylaminoacetyl-7-hydroxyindole-2-carboxylic acid methyl ester hydrochloride | 896 mg | Cl.COC(=O)C=1NC2=C(C=CC(=C2C1)C(CNC)=O)O
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium | 150 mg | [Pd] | Pd
product | 4-(1-hydroxy-2-methylaminoethyl)- 7-hydroxyindole-2-carboxylic acid methyl ester hydrochloride | 232 mg | Cl.COC(=O)C=1NC2=C(C=CC(=C2C1)C(CNC)O)O | InChI=1S/C13H16N2O4.ClH/c1-14-6-11(17)7-3-4-10(16)12-8(7)5-9(15-12)13(18)19-2;/h3-5,11,14-17H,6H2,1-2H3;1H
